US08426449B2
Step 4: (3-{4-Amino-2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
(3-{2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester (0.1 g, 0.19 mmol), 1,1-dimethylhydrazine (0.1 g, 1.3 mmol), ferric chloride (0.01 g), and DARCO (0.05 g) were combined in EtOH (5 mL), and the reaction was stirred at 65° C. until complete. The mixture was worked up to give the title compound.

reactant | (3-{2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | 0.19 mmol, 0.1 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H30N2O8
reactant | 1,1-dimethylhydrazine | 1.3 mmol, 0.1 g | CN(N)C | C2H8N2
reactant | DARCO | 0.05 g | C | CH4
solvent | EtOH | 5 mL | CCO | C2H6O
product | (3-{4-Amino-2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H32N2O6
